US06143762
(E)-2-(4-(3-(4-Aminophenyl)propenoyl)aminobutyl)-7-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline
A mixture of 2-(4-aminobutyl)-7-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline (440 mg, 1.25 mmol), trans-4-aminocinnamic acid hydrochloride (250 mg, 1.25 mmol), triethylamine (0.174 ml, 1.25 mmol) 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (240 mg, 1.25 mmol) and 1-hydroxybenzotriazole (100 mg, 0.74 mmol) in dichloromethane (50 ml) was stirred at room temperature for 18 h. The reaction mixture was washed with saturated aqueous sodium hydrogen carbonate (50 ml) and the organic layer dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica using 10-100% ethyl acetate-hexane gradient elution to afford the title compound (280 mg, 45%).

reactant | 2-(4-aminobutyl)-7-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline | 1.25 mmol, 440 mg | NCCCCN1CC2=CC(=CC=C2CC1)OS(=O)(=O)C(F)(F)F | C14H19F3N2O3S
reactant | trans-4-aminocinnamic acid hydrochloride | 1.25 mmol, 250 mg | Cl.NC1=CC=C(/C=C/C(=O)O)C=C1
reactant | triethylamine | 1.25 mmol, 0.174 ml, 240 mg | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 0.74 mmol, 100 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (E)-2-(4-(3-(4-Aminophenyl)propenoyl)aminobutyl)-7-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline | 280 mg, 45% | NC1=CC=C(C=C1)/C=C/C(=O)NCCCCN1CC2=CC(=CC=C2CC1)OS(=O)(=O)C(F)(F)F | C23H26F3N3O4S
